US07557136B2
To a solution of 3-((2S,4R)-1-(tert-butoxycarbonyl)-4-{[tert-butyl(dimethyl)silyl]oxy}-pyrrolidin-2-yl)acrylic acid (40 g, 0.107 mol) in dry DMF (250 ml) was added iodoethane (17.3 ml, 0.23 mol), followed by K2CO3 (29 g, 0.22 mol). After stirring at RT for 4 h, K2CO3 was filtered off and solvent removed under vacuum. The residue was taken in dichloromethane, washed with brine and dried. The solvent was removed under vacuum to give tert-butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]pyrrolidine-1-carboxylate (35 g) as pale yellow liquid. Yield: 82%

reactant | 3-((2S,4R)-1-(tert-butoxycarbonyl)-4-{[tert-butyl(dimethyl)silyl]oxy}-pyrrolidin-2-yl)acrylic acid | 0.107 mol, 40 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C=CC(=O)O | C18H33NO5Si
reactant | iodoethane | 0.23 mol, 17.3 ml | ICC | C2H5I
reactant | K2CO3 | 0.22 mol, 29 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | tert-butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-[(1E)-3-ethoxy-3-oxoprop-1-en-1-yl]pyrrolidine-1-carboxylate | 35 g, Yield: 82% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)\C=C\C(=O)OCC | C20H37NO5Si
